US09102621B2
Ethyl 4-((5-chloro-6-methoxypyridin-3-yloxy)methyl)-2,5-difluorobenzoate
To a solution of 5-chloro-6-methoxypyridin-3-ol (Preparation 56, 98 mg, 0.612 mmol) in acetone (10 mL) were added ethyl 4-(bromomethyl)-2,5-difluorobenzoate (Preparation 19, 171 mg, 0.612 mmol) and potassium carbonate (170 mg, 1.224 mmol). The mixture was stirred for 18 hours at room temperature under a nitrogen atmosphere. The reaction mixture was diluted with water (20 mL), and extracted with DCM (2×30 mL). Combined organic extracts were dried over sodium sulphate, and evaporated to a yellow solid. The solid was purified by silica gel chromatography eluting with DCM/heptanes (3:2) to afford the title compound as a white solid (112 mg, 51%).

reactant | 5-chloro-6-methoxypyridin-3-ol | 0.612 mmol, 98 mg | ClC=1C=C(C=NC1OC)O | C6H6ClNO2
reactant | ethyl 4-(bromomethyl)-2,5-difluorobenzoate | 0.612 mmol, 171 mg | BrCC1=CC(=C(C(=O)OCC)C=C1F)F | C10H9BrF2O2
reactant | potassium carbonate | 1.224 mmol, 170 mg | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 10 mL | CC(=O)C | C3H6O
solvent | water | 20 mL | O | H2O
product | Ethyl 4-((5-chloro-6-methoxypyridin-3-yloxy)methyl)-2,5-difluorobenzoate | 112 mg, 51% | ClC=1C=C(C=NC1OC)OCC1=CC(=C(C(=O)OCC)C=C1F)F | C16H14ClF2NO4
